US08871756B2
3-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-1,1-dimethylurea
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 1,1-dimethylurea. MS obsd. (ESI+) [(M+H)+] 425, 1H NMR (400 MHz, CD3OD) δ ppm 7.83 (d, J=7.6 Hz, 1 H), 7.68 (t, J=3.6 Hz, 2 H), 7.42 (q, J=7.2 Hz, 2 H), 7.23-7.20 (m, 2 H), 7.15 (s, 1 H), 5.00 (s, 2 H), 4.45 (brs, 2 H), 3.42 (s, 2 H), 3.02 (s, 6 H), 2.30 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 1,1-dimethylurea | CN(C(=O)N)C | C3H8N2O
product | 3-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-1,1-dimethylurea | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC(N(C)C)=O)C)=O | C22H24N4O3S
